US07932272B2
C-(1-(3-Fluoro-benzyl)-1H-pyrrol-3-yl)-methylamine
7N Ammonia/methanol (40 mL) and Raney nickel (2 g) were added to 1-(3-fluoro-benzyl)-1H-pyrrole-3-carbaldehyde described in Preparation Example 58 (1.0 g, 4.9 mmol), and the solution was stirred for 18 hours under hydrogen atmosphere at room temperature. The catalyst was removed by filtering through Celite pad, then, NH silica gel was added to the filtrate, the solvent was evaporated in vacuo for adsorption, purification by NH silica gel column chromatography (hexane:ethyl acetate=2:1, then 1:1, then ethyl acetate) was carried out, and the title compound (530 mg, 2.5 mmol, 53.0%) was obtained as a brown oil.

reactant | 1-(3-fluoro-benzyl)-1H-pyrrole-3-carbaldehyde | FC=1C=C(CN2C=C(C=C2)C=O)C=CC1 | C12H10FNO
reactant | Ammonia methanol | 7N, 40 mL | N.CO
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | C-(1-(3-Fluoro-benzyl)-1H-pyrrol-3-yl)-methylamine | 2.5 mmol, 530 mg, 53.0% | FC=1C=C(CN2C=C(C=C2)CN)C=CC1 | C12H13FN2
